US05763439
Preparation of 4-cyano-2-ethyl-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one (Compound No. 47)
Into 305 ml of an absolute ethanol solution of 1.9 g of 4-picolylamine, 30 ml of an absolute ethanol suspension of 1.4 g of 4,5-dicyano-2-ethylpyridazin-3-(2H)-one was dropwise added under cooling with ice over a period of 30 minutes. After completion of the dropwise addition, the mixture was reacted at room temperature overnight. Then, ethanol was distilled off under reduced pressure. To the residue, 250 ml of ethyl acetate and 100 ml of water were added, followed by shaking. The ethyl acetate layer was dried over anhydrous sodium sulfate and then distilled under reduced pressure. The residue was subjected to column chromatography, and using an eluent (ethyl acetate:methanol=40:1), 0.3 g of the desired product (Compound No. 47) was obtained.

reactant | 4-picolylamine | 1.9 g | N1=CC=C(C=C1)CN | C6H8N2
reactant | 4,5-dicyano-2-ethylpyridazin-3-(2H)-one | 1.4 g | C(#N)C=1C(N(N=CC1C#N)CC)=O | C8H6N4O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 305 ml | C(C)O | C2H6O
product | 4-cyano-2-ethyl-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one | 0.3 g | C(#N)C=1C(N(N=CC1NCC1=CC=NC=C1)CC)=O | C13H13N5O
